US08735385B2
1-(2-Oxo-ethyl)-cyclohexane-1,4-dicarboxylic acid dimethyl ester
1-Allyl-cyclohexane-1,4-dicarboxylic acid dimethyl ester (4.5 g, 17.71 mmol) was dissolved in 2-propanol (100 mL) and water (50 mL). To this was added an aqueous solution of NaIO4 (9.5 g, 44.3 mmol) in water (50 mL), followed by addition of OsO4 (0.025 g, crystals, in one portion). The reaction mixture was allowed to stir for 16 hours. Then, the reaction mixture was poured into ice water (50 mL) and ethyl acetate (EtOAc) (60 mL). The two layers were separated and the aqueous layer was extracted with EtOAc (3×50 mL). The combined organic solutions were washed with brine, and concentrated to dryness. The material was then purified over silica gel column eluting with ethyl acetate in heptanes (0-60%) to afford 3.09 g (72%) of the title compound.

reactant | 1-Allyl-cyclohexane-1,4-dicarboxylic acid dimethyl ester | 17.71 mmol, 4.5 g | COC(=O)C1(CCC(CC1)C(=O)OC)CC=C | C13H20O4
reactant | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
solvent | 2-propanol | 100 mL | CC(C)O | C3H8O
solvent | water | 50 mL | O | H2O
solvent | water | 50 mL | O | H2O
catalyst | OsO4 | 0.025 g | O=[Os](=O)(=O)=O
product | 1-(2-Oxo-ethyl)-cyclohexane-1,4-dicarboxylic acid dimethyl ester | 3.09 g, 72% | COC(=O)C1(CCC(CC1)C(=O)OC)CC=O | C12H18O5
